US07759397B2
1.2 (R)-5-Bromo-indan-2-ylamine
25 g of 5-bromo-indan-2-ylamine hydrobromide (85.32 mmol) and 9.85 ml of 4-methylmorpholin (89.59 mmol) were dissolved in 53 ml of methanol. The mixture was heated to 60° C. and a solution of 25.77 g of (1S)-(+)-campher-10-sulfonic acid (110.92 mmol) in 42 ml of methanol added within 25 minutes. The reaction mixture was stirred for 10 minutes at 60° C. and then allowed to cool down to room temperature over a 2 h time period, with stirring continuing for another 2 h. The precipitate was filtered, washed twice with 20 ml of ethyl acetate/methanol (2:1) and 20 ml of water, and finally dried at 50° C. under vacuo for 15 h to give 13.3 g of the salt.

reactant | 5-bromo-indan-2-ylamine hydrobromide | 85.32 mmol, 25 g | Br.BrC=1C=C2CC(CC2=CC1)N
reactant | 4-methylmorpholin | 89.59 mmol, 9.85 ml | CN1CCOCC1 | C5H11NO
solvent | methanol | 53 ml | CO | CH4O
solvent | methanol | 42 ml | CO | CH4O
product | (R)-5-Bromo-indan-2-ylamine | 13.3 g | BrC=1C=C2C[C@@H](CC2=CC1)N | C9H10BrN
